US08278290B2
(iii) 4-(7-Fluoro-6-methoxy-3-(3,4,5-trimethoxybenzoyl)benzofuran-2-yl)-1-(4-methoxybenzyl)-1H-pyrazole
A suspension of 4-(7-fluoro-3-iodo-6-methoxy-benzofuran-2-yl)-1-(4-methoxybenzyl)-1H-pyrazole (0.087 g, 0.182 mmol), 3,4,5-trimethoxyphenyl boronic acid (0.058 g, 0.27 mmol), dry K2CO3 (0.075 g, 0.55 mmol) and Pd(PPh3)2Cl2 (0.016 g, 0.014 mmol) in anhydrous anisole (8 ml) was placed in Parr mini bench top reactor (series 4561, 300 ml. The reactor was degassed under reduced pressure and flashed with dry N2 than flashed three times with CO by pressurizing the reactor up to 180 psi and depressurizing. Finally, the reactor was pressurized to 180 psi and stirred at 85±5° C. (the temperature of external oil bath) for ˜30 h. The reactor was cooled down to room temperature and the reaction mixture was diluted to 20 ml with CH2Cl2 and filtered through celite. The celite pad was washed with fresh portion of CH2Cl2 (3×20 ml) and combined filtrates were evaporated to dryness under reduced pressure. The residue was purified by flash column chromatography (silica-gel, eluted with CH2Cl2/ethyl acetate 9:1) giving the product of Step 1 as a creamy solid (0.05 g, 50.25%) 1H NMR (300 MHz, CDCl3) 7.98 (s, 1H), 7.97 (s, 1H), 7.08 (s, 2H), 6.9-6.97 (m, 1H), 6.82-6.86 (m, 1H), 5.21 (s, 2H), 3.7-3.96 (m, 15H).

reactant | 4-(7-fluoro-3-iodo-6-methoxy-benzofuran-2-yl)-1-(4-methoxybenzyl)-1H-pyrazole | 0.182 mmol, 0.087 g | FC1=C(C=CC=2C(=C(OC21)C=2C=NN(C2)CC2=CC=C(C=C2)OC)I)OC | C20H16FIN2O3
reactant | 3,4,5-trimethoxyphenyl boronic acid | 0.27 mmol, 0.058 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | K2CO3 | 0.55 mmol, 0.075 g | C(=O)([O-])[O-].[K+].[K+]
solvent | anisole | 8 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | Pd(PPh3)2Cl2 | 0.014 mmol, 0.016 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(7-Fluoro-6-methoxy-3-(3,4,5-trimethoxybenzoyl)benzofuran-2-yl)-1-(4-methoxybenzyl)-1H-pyrazole | 0.05 g, 50.25% | FC1=C(C=CC=2C(=C(OC21)C=2C=NN(C2)CC2=CC=C(C=C2)OC)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)OC | C30H27FN2O7
